US09388189B2
b) (S)-1-(2-methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)urea
To a suspension of (S)-2-(1-((5-(5-amino-6-methoxypyridin-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (92 mg, 0.14 mmol) in water (0.75 mL) and acetic acid (1.2 mL) was added potassium isocyanate (20 mg, 0.25 mmol) according to the method described in Preparation 181. The residue was purified using SP1® Purification System (0% to 5% dichloromethane methanol) to obtain 61 mg (53% yield, 86% purity) of the title compound.

reactant | (S)-2-(1-((5-(5-amino-6-methoxypyridin-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 92 mg | NC=1C=C(C=NC1OC)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H39N9O3Si
reactant | potassium isocyanate | 0.25 mmol, 20 mg | [N-]=C=O.[K+]
solvent | water | 0.75 mL | O | H2O
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
product | (S)-1-(2-methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)urea | 53% yield | COC1=NC=C(C=C1NC(=O)N)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H40N10O4Si
